US04785113
60 g (0.39 mol) 4-chloro-2,3,5-trimethylpyridine and 21.7 g (0.40 mol) sodium methoxide and 180 ml dry dimethylsulfoxide was heated with stirring to 55°-60° C. for 8 hrs. The reaction mixture was diluted with 600 ml water and extracted with 3x100 ml toluene and the organic layer washed with 2x50 ml water. The organic phase was added to 200 ml water and pH adjusted to 4.1 with stirring. This process was repeated twice with 200 ml and 100 ml of water. The organic layer contained almost pure starting material. The combined water phase was made alkaline and extracted with 2×150 ml methylene chloride. Evaporation of solvent gave 40.7 g of almost pure 4-methoxy-2,3,5-trimethylpyridine. NMR: 2×3H, 2,2: 3H, 2,45(s); 3H, 3,75(s); 1H, 8,2(s). (CDCl3)

reactant | 4-chloro-2,3,5-trimethylpyridine | 0.39 mol, 60 g | ClC1=C(C(=NC=C1C)C)C | C8H10ClN
reactant | sodium methoxide | 0.40 mol, 21.7 g | C[O-].[Na+]
reactant | dimethylsulfoxide | 180 ml | CS(=O)C | C2H6OS
solvent | water | 600 ml | O | H2O
product | 4-methoxy-2,3,5-trimethylpyridine | COC1=C(C(=NC=C1C)C)C | C9H13NO
